US05929067
b) 4-[N-Methyl-N-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(naphth-2-yl)-pentanoic acid
A solution of 19.5 g of 4-[N-methyl-N-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(naphth-2-yl)-pentanoic acid ethyl ester and 7.8 g of lithium hydroxide (monohydrate) in 212 ml of methanol, 148 ml of tetrahydrofuran and 60 ml of water is stirred at room temperature for 75 minutes and then concentrated by evaporation. The residue is dissolved in 150 ml of water, acidified to pH=2 with 0.1N hydrochloric acid and extracted three times with ethyl acetate. The combined organic phases are washed with water and saturated NaCl solution, dried (magnesium sulfate) and concentrated by evaporation. In this way the title compound is obtained in the form of a yellow foam. Rf value=0.50 (hexane/ethyl acetate 1:4). IR (CH2Cl2): 3053, 1712, 1639, 1406, 1341, 1278, 1183, 1141, 1108, 904, 849, 821 cm-1.

reactant | 4-[N-methyl-N-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(naphth-2-yl)-pentanoic acid ethyl ester | 19.5 g | C(C)OC(CCC(CC1=CC2=CC=CC=C2C=C1)N(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)=O | C27H25F6NO3
reactant | lithium hydroxide | 7.8 g | [OH-].[Li+]
solvent | methanol | 212 ml | CO | CH4O
solvent | tetrahydrofuran | 148 ml | O1CCCC1 | C4H8O
solvent | water | 60 ml | O | H2O
product | 4-[N-Methyl-N-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(naphth-2-yl)-pentanoic acid | CN(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C(CCC(=O)O)CC1=CC2=CC=CC=C2C=C1 | C25H21F6NO3
